US04001228
In a three-necked, 500 ml flask provided with reflux condenser and mechanical stirrer, 25.3 g 4,5-diphenyl-4-oxazolin-2-thione, 27.6 g anhydrous potassium carbonate, 14.5 ml ethyl bromoacetate and 200 ml absolute ethanol were refluxed for 5 hours with vigorous stirring. The mixture was cooled to room temperature, filtered and washed with absolute ethanol on the filter. The filtrate was evaporated to dryness in vacuo and the residue was suspended in 150 ml ether and 150 ml water. The ethereal phase was separated, dried on anhydrous sodium sulphate, filtered and evaporated to dryness in vacuo to give 23 g ethyl S-(4,5-diphenyloxazol-2-yl)-mercaptoacetate as an oil which was recrystallized from an anhydrous ether-petroleum ether mixture: m.p. 53°-55° C; yield = 67.9%.

reactant | 4,5-diphenyl-4-oxazolin-2-thione | 25.3 g | C1(=CC=CC=C1)C=1NC(OC1C1=CC=CC=C1)=S | C15H11NOS
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 14.5 ml | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl S-(4,5-diphenyloxazol-2-yl)-mercaptoacetate | 23 g, yield = 67.9% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)SCC(=O)OCC | C19H17NO3S
